US07718693B2
Dimethyl D-glutamate hydrochloride (2.1 g, 10.00 mmol) was dissolved in methanol (7.5 ml) and tetrahydrofuran (15 ml) and the mixture was then treated with crushed sodium hydroxide (0.402 g, 10.05 mmol) for 20 minutes under argon. At this stage acetic acid (0.575 ml, 10.05 mmol) and cyclopentanone (0.889 ml, 10.05 mmol) were added to the mixture. After stirring for 10-15 minutes the mixture was cooled to 0° C. in an ice-bath and treated with sodium borohydride pellets (0.380 g, 10.05 mmol). The mixture was stirred for 3 hrs under argon and allowed to warm to room temperature. Once the mixture had reached room temperature the methanol was evaporated off and the residue was diluted with dichloromethane (20 ml) and washed with saturated aqueous sodium hydrogen carbonate (˜25 ml). The organic layer was separated and the aqueous layer was back-extracted with more dichloromethane (2×20 ml). The combined organic layers were concentrated in vacuo to give an oil. The oil was dissolved in toluene (10 ml) and heated at reflux overnight. The solvent was then evaporated and the resulting residue was purified by flash-silica column chromatography, eluting with a gradient of 0-10% methanol in dichloromethane, to give crude methyl 1-cyclopentyl-5-oxoprolinate which was used without further purification in the next step.

reactant | Dimethyl D-glutamate hydrochloride | 10.00 mmol, 2.1 g | Cl.N[C@H](CCC(=O)OC)C(=O)OC
reactant | sodium hydroxide | 10.05 mmol, 0.402 g | [OH-].[Na+]
reactant | acetic acid | 10.05 mmol, 0.575 ml | C(C)(=O)O | C2H4O2
reactant | cyclopentanone | 10.05 mmol, 0.889 ml | C1(CCCC1)=O | C5H8O
reactant | sodium borohydride | [BH4-].[Na+]
solvent | methanol | 7.5 ml | CO | CH4O
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | methyl 1-cyclopentyl-5-oxoprolinate | C1(CCCC1)N1[C@H](C(=O)OC)CCC1=O | C11H17NO3
